********
* Dead time generator library
* Developed by Christophe BASSO (France)
* INTUSOFT's IsSpice4 compatible
* Last modified: March 3rd 1998 
********
*SRC=DEADTIME;DEADTIME;!Generators;Power;1/2 Bridge DT Gen.
*SYM=DEADTIME
.SUBCKT DEADTIME 1 50 110 51 100 {DT=500N VHIGH=10V VLOW=100M RS=10}
*
* Nodes:
* Clock_In GateUpper SourceUpper GateLower Ground
* Parameters:
* DT     : Dead time in seconds
* VHIGH  : High voltage output in Volts
* VLOW   : Low voltage output in Volts
* RS     : GateUpper to SourceUpper resistance
*
* Dead-time generation for half-bridge or synchronous rectification
* Implementing an upper floating N MOS and a lower N channel
* Developed by Christophe BASSO (FRANCE)
*
RIN 1 100 1MEG
B6 17 100 V=V(1,100)>2V ? 10 : 0
R3 17 18 1k
C3 18 100 {DT/(1000*4.14)}
B4 21 100 V=V(25,19)<100MV ? {VLOW} : {VHIGH}
RCQ 21 60 100
CCQ 60 100 10P
BQ 61 110 V=V(60,100)
RDUM1 50 100 100MEG
RDUM2 110 100 100MEG
RSQ 61 50 {RS}
R4 22 23 1k
C4 23 100 {DT/(1000*4.14)}
B5 24 100 V=V(26,20)<100MV ? {VLOW} : {VHIGH}
RCQB 24 70 100
CCQB 70 100 10P
BQB 71 100 V=V(70,100)
RSQB 71 51 {RS}
R5 17 25 1k
C5 25 100 {DT/(1000*41.4)}
R6 22 26 1k
C6 26 100 {DT/(1000*41.4)}
D3 23 22 DISCH
D4 18 17 DISCH
B1 22 100 V=V(1,100)>2V ? 0 : 10
B2 19 100 V=V(17,18)<100MV ? 0 : 10
B3 20 100 V=V(22,23)<100MV ? 0 : 10
.MODEL DISCH D BV=100V CJO=4PF IS=7E-09 M=.45 N=2 RS=.8
+ TT=6E-09 VJ=.6V
.ENDS
********
*SRC=DEADSYNC;DEADSYNC;!Generators;Power;Dead Time Gene. Synchronous Rec.
*SYM=DEADSYNC
.SUBCKT DEADSYNC 1 50 51 {DT=500N VHIGH=10V VLOW=100M RS=10}
*
* Nodes:
* Clock_In Nchannel Pchannel
* Parameters:
* DT     : Dead time in seconds
* VHIGH  : High voltage output in Volts
* VLOW   : Low voltage output in Volts
* RS     : GateUpper to SourceUpper resistance
*
* Synchronous rectification using a lower N MOS and an upper P MOS
* Developed by Christophe BASSO (FRANCE)
RIN 1 0 1MEG
B6 17 0 V=V(1)>2V ? 10 : 0
R3 17 18 1k
C3 18 0 {DT/(1000*4.14)}
B4 21 0 V=V(25,19)<100MV ? {VLOW} : {VHIGH}
RCQ 21 60 100
CCQ 60 0 10P
BQ 61 0 V=V(60)
RSQ 61 50 {RS}
R4 22 23 1k
C4 23 0 {DT/(1000*4.14)}
B5 24 0 V=V(26,20)<100MV ? {VHIGH} : {VLOW}
RCQB 24 70 100
CCQB 70 0 10P
BQB 71 0 V=V(70)
RSQB 71 51 {RS}
R5 17 25 1k
C5 25 0 {DT/(1000*41.4)}
R6 22 26 1k
C6 26 0 {DT/(1000*41.4)}
D3 23 22 DISCH
D4 18 17 DISCH
B1 22 0 V=V(1)>2V ? 0 : 10
B2 19 0 V=V(17,18)<100MV ? 0 : 10
B3 20 0 V=V(22,23)<100MV ? 0 : 10
.MODEL DISCH D BV=100V CJO=4PF IS=7E-09 M=.45 N=2 RS=.8
+ TT=6E-09 VJ=.6V
.ENDS
********
*SRC=DEADDRV;DEADDRV;!Generators;Power;DT Synchro. Rec. w/driver
*SYM=DEADDRV
.SUBCKT DEADDRV 1 50 51 80 100 {DT=500N}
*
* Nodes:
* Clock_In Nchannel Pchannel Vcc Ground
* Parameters:
* DT     : Dead time in seconds
*
* Synchronous rectification using a lower N MOS and an upper P MOS
* With UC384X-like output drivers
* Developed by Christophe BASSO (FRANCE)
RIN 1 100 1MEG
B6 17 100 V=V(1,100)>2V ? 10 : 0
R3 17 18 1k
C3 18 100 {DT/(1000*4.14)}
B4 21 100 V=V(25,19)<100MV ? 100M : V(80,100)
RCQ 21 60 100
CCQ 60 100 10P
BQ 61 100 V=V(60)
XDRVQ 80 100 61 50 DRIVER
B5 24 100 V=V(26,20)<100MV ? V(80,100) : 100M
RCQB 24 70 100
CCQB 70 100 10P
BQB 71 100 V=V(70,100)
XDRVQB 80 100 71 51 DRIVER
R4 22 23 1k
C4 23 100 {DT/(1000*4.14)}
R5 17 25 1k
C5 25 100 {DT/(1000*41.4)}
R6 22 26 1k
C6 26 100 {DT/(1000*41.4)}
D3 23 22 DISCH
D4 18 17 DISCH
B1 22 100 V=V(1,100)>2V ? 0 : 10
B2 19 100 V=V(17,18)<100MV ? 0 : 10
B3 20 100 V=V(22,23)<100MV ? 0 : 10
.MODEL DISCH D BV=100V CJO=4PF IS=7E-09 M=.45 N=2 RS=.8
+ TT=6E-09 VJ=.6V
.ENDS
*INCLUDE DEAD.LIB
*****************
.SUBCKT DRIVER  4  7  3  12
*               +V -V IN OUT
.MODEL QMOD NPN RC=1.5  RE=.5 RB=100  IKF=0.5
.MODEL QMOD2 NPN
.MODEL QIN NPN BF=100 BR=2 IS=1E-16 VAF=50 
+ CJE=1.5P CJC=.15P TR=1N TF=4N
.MODEL DMOD D RS=1 IS=0.4U
I3 4 8 100U
D3 8 4 DMOD
D4 12 8 DMOD
Q3 8 1 9 QIN
Q4 12 9 7 QMOD
Q5 4 8 6 QMOD
I4 7 1 .9M
R1 3 2 10K
Q8 1 2 7 QIN
Q2 4 6 12 QMOD2
.ENDS
********
